US07863291B2
A mixture of dimethyl 7-methoxy-5-methylthiazolo[5,4-d]pyrimidin-2-ylcarbonimidodithioate (56 mg, 0.19 mmol), (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride (51 mg, 0.22 mmol) and cesium carbonate (175 mg, 0.54 mmol) in DMF (0.5 mL) was heated to 100° C. for 2 hours. The reaction mixture was cooled to ambient temperature, poured into water and extracted with chloroform (4×). The combined organics were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The mixture was purified by silica gel chromatography (2-40% [9:1 methanol:ammonium hydroxide]-chloroform). The product fractions were combined and concentrated in vacuo to afford (R)—N-(7-methoxy-5-methylthiazolo[5,4-d]pyrimidin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (34 mg, 50% yield). 1H NMR (400 MHz, CDCl3) δ ppm 9.10 (br. s., 1 H) 4.14 (s, 3 H) 4.03 (d, J=9.54 Hz, 1 H) 3.68 (d, J=9.54 Hz, 1 H) 3.39 (dd, J=14.93, 1.63 Hz, 1 H) 2.74-3.07 (m, 5 H) 2.68 (s, 3 H) 2.04-2.28 (m, 2 H) 1.70-1.86 (m, 1 H) 1.44-1.67 (m, 2 H). MS (LC/MS) R.T.=1.10; [M+H]+=361.32.

reactant | dimethyl 7-methoxy-5-methylthiazolo[5,4-d]pyrimidin-2-ylcarbonimidodithioate | 0.19 mmol, 56 mg | COC=1C2=C(N=C(N1)C)SC(=N2)N=C(SC)SC | C10H12N4OS3
reactant | (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride | 0.22 mmol, 51 mg | Cl.Cl.NC[C@@]1(CN2CCC1CC2)O
reactant | cesium carbonate | 0.54 mmol, 175 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (R)—N-(7-methoxy-5-methylthiazolo[5,4-d]pyrimidin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 34 mg, 50% yield | COC=1C2=C(N=C(N1)C)SC(=N2)NC=2O[C@]1(CN3CCC1CC3)CN2 | C16H20N6O2S
